US07304071B2
4-[5-Chloro-2-(1-hydroxymethylpropylamino)-pyrimidin-4-yl]-benzoic acid methyl ester (68 mg, 0.20 mmol) was dissolved in 4 mL THF. To this solution 41 mg of lithium hydroxide monohydrate in 2 mL water was added and the reaction mixture stirred for 3 days. The reaction mixture was diluted with 1N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to afford 4-[5chloro-2-(1-hydroxymethylpropylamino)-pyrimidin-4-yl]-benzoic acid as a yellow solid, 64 mg, 0.20 mmol. LCMS ES+=322.1.

reactant | 4-[5-Chloro-2-(1-hydroxymethylpropylamino)-pyrimidin-4-yl]-benzoic acid methyl ester | 0.20 mmol, 68 mg | COC(C1=CC=C(C=C1)C1=NC(=NC=C1Cl)NC(CC)CO)=O | C16H18ClN3O3
reactant | lithium hydroxide monohydrate | 41 mg | O.[OH-].[Li+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | HCl | 1N | Cl | ClH
product | 4-[5chloro-2-(1-hydroxymethylpropylamino)-pyrimidin-4-yl]-benzoic acid | ClC=1C(=NC(=NC1)NC(CC)CO)C1=CC=C(C(=O)O)C=C1 | C15H16ClN3O3
